US04226799
98.6 parts of 75 percent pure sodium salt of α-formyl-β-formylaminopropionitrile and 81.5 parts of dimethylammonium chloride in 700 parts by volume of chloroform are refluxed for 1.5 hours, during which time 8.5 parts (theory: 9 parts) of water are eliminated. The mixture is filtered, the filtrate is concentrated to dryness and the product is recrystallized from methanol. 43.0 parts of α-dimethylaminomethylene-β-formylaminopropionitrile of melting point 90° C. are obtained.

reactant | sodium | [Na] | Na
reactant | α-formyl-β-formylaminopropionitrile | C(=O)C(C#N)CNC=O | C5H6N2O2
reactant | dimethylammonium chloride | [Cl-].C[NH2+]C
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | α-dimethylaminomethylene-β-formylaminopropionitrile | CN(C)C=C(C#N)CNC=O | C7H11N3O
